US08383637B2
(3-Dimethoxymethyl-4-nitro-phenyl)-morpholin-4-yl-phenyl-acetonitrile
NaH (0.975 mol) was washed with hexane. After the hexane was decanted off, the NaH was stirred in DMF (1950 mL) at room temperature. Morpholin-4-yl-phenyl-acetonitrile (0.70 mol) in DMF (300 mL) was added dropwise under N2 gas. The reaction mixture was stirred at room temperature for 2 hours. The reaction mixture was cooled in an ice bath and 4-chloro-2-dimethoxymethyl-1-nitrobenzene (0.86 mol) in DMF (150 mL) was added dropwise. The reaction mixture was stirred at 0° C. for 2 hours and at room temperature overnight. The reaction mixture was poured on ice/water and extracted with diisopropyl ether. The organic layer washed with water, dried (MgSO4) and evaporated to yield the title compound as a solid.

reactant | NaH | 0.975 mol | [H-].[Na+]
reactant | Morpholin-4-yl-phenyl-acetonitrile | 0.70 mol | N1(CCOCC1)C(C#N)C1=CC=CC=C1 | C12H14N2O
reactant | 4-chloro-2-dimethoxymethyl-1-nitrobenzene | 0.86 mol | ClC1=CC(=C(C=C1)[N+](=O)[O-])C(OC)OC | C9H10ClNO4
solvent | hexane | CCCCCC | C6H14
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | (3-Dimethoxymethyl-4-nitro-phenyl)-morpholin-4-yl-phenyl-acetonitrile | COC(C=1C=C(C=CC1[N+](=O)[O-])C(C#N)(C1=CC=CC=C1)N1CCOCC1)OC | C21H23N3O5
